*SPICE model for MSA1110  
*Start bond wires
.SUBCKT MSA1110   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .100PF
LT1     11      12      .401NH
C2T1    12      0       .100PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .032PF
LT2     14      15      .078NH
C2T2    15      0       .032PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .113PF
LT3     13      DIEOUT  .450NH
C2T3    DIEOUT  0       .113PF
* Bond wire inductance
LLB     12      DIEIN   .65NH
LLE     15      DIEGND  .1NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .03PF
CCEC    15      DIEOUT  .03PF
CCBC    12      DIEOUT  .05PF
* INSERT DIE MODEL
XA11DIE DIEOUT  DIEIN   DIEGND  MSA11
.ENDS
*end bond wires
* Start die model
.SUBCKT MSA11   DIEOUT  DIEIN   DIEGND
RF      DIEIN   13      300   
RE      Q2E     DIEGND  10    
RB      DIEIN   DIEGND  2400  
RBIAS   Q1E     DIEGND  80    
RDC     DIEIN   DIEOUT  4000  
CF      DIEIN   DIEOUT  0.10PF
CFB     13      DIEOUT  0.058PF
CP1     Q1E     DIEOUT  0.050PF
CP2     Q2E     DIEOUT  0.080PF
CP3     DIEGND  DIEOUT  0.1208PF
CFBL    14      DIEOUT  200PF
LF      13      14      0.35NH
XA11Q1  DIEOUT  DIEIN   Q1E     A11Q1
XA11Q2  DIEOUT  Q1E     Q2E     A11Q2
.ENDS
* Q1 distributed base model
.SUBCKT A11Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     0.42  
RB2     11      12     1.42  
RB3     12      B1     1.24  
RE      E1      Q1E    0.10  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    1000
DCD1    Q1B     C1     DMOD    1591
DCD2    11      C1     DMOD    1392
DCD3    12      C1     DMOD    882
.ENDS
* Q2 distributed base model
.SUBCKT A11Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     0.67  
RB2     21      22     2.3   
RB3     22      B2     2.0   
RE      E2      Q2E    0.16  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    625
DCD1    Q2B     C2     DMOD    1051
DCD2    21      C2     DMOD    870
DCD3    22      C2     DMOD    551
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end die model