*SPICE model for MSA2011 
*Start Package model 
.SUBCKT MSA2011   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .11PF
LT1     11      12      .40NH
C2T1    12      0       .11PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .06PF
LT2     14      15      .10NH
C2T2    15      0       .06PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .13PF
LT3     13      DIEOUT  .47NH
C2T3    DIEOUT  0       .13PF
* Bond wire inductance
LLB     12      DIEIN   .5NH
LLE     15      DIEGND  .25NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEC    15      DIEOUT  .01PF
CCEB    12      15      .04PF
CCBC    12      DIEOUT  .04PF
* INSERT DIE MODEL
XA20DIE DIEOUT  DIEIN   DIEGND  MSA20
.ENDS
*end Package model
*
* Start die model
.SUBCKT MSA20   DIEOUT  DIEIN   DIEGND
RF      DIEIN   DIEOUT  670   
RE      Q2E     DIEGND  2.9   
RB      DIEIN   DIEGND  350   
RBIAS   Q1E     DIEGND  75    
CF      DIEIN   DIEOUT  0.04PF
CP1     Q1E     DIEOUT  0.05PF
CP2     Q2E     DIEOUT  0.15PF
CP3     DIEGND  DIEOUT  0.25PF
XA20Q1  DIEOUT  DIEIN   Q1E     A20Q1
XA20Q2  DIEOUT  Q1E     Q2E     A20Q2
.ENDS
* Q1 distributed base model
.SUBCKT A20Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     2.42  
RB2     11      12     7.45  
RB3     12      B1     6.25  
RE      E1      Q1E    0.55  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    180
DCD1    Q1B     C1     DMOD    292
DCD2    11      C1     DMOD    292
DCD3    12      C1     DMOD    146
.ENDS
* Q2 distributed base model
.SUBCKT A20Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     1.48  
RB2     21      22     4.47  
RB3     22      B2     3.75  
RE      E2      Q2E    0.33  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    300
DCD1    Q2B     C2     DMOD    432
DCD2    21      C2     DMOD    486
DCD3    22      C2     DMOD    243
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*End die model